US08071584B2
7-(1-Methylethyl)-1,4-dioxa-8-thiaspiro[4.5]decane
N-Chlorosuccinimide (14.0 g, 104.9 mmol) was added in three portions with stirring over 15 min to a cooled (0° C.) solution of 8-thiabicyclo[3.2.1]octan-3-one (16.0 g, 99.9 mmol) in dry benzene (400 mL) under nitrogen. The mixture was stirred for a further 2.5 h and was then filtered. The filtrate was added dropwise with stirring under nitrogen to a cooled (0° C.) solution of isopropylmagnesium bromide (from isopropyl bromide (28.3 g, 229.7 mmol), magnesium (5.7 g, 234.7 mmol) and CuI (1.52 g, 7.9 mmol)) in dry ether (300 mL). The mixture was stirred for a further 15 h and cold (0° C.), dilute hydrochloric acid was added cautiously. The organic layer was separated and washed successively with water, saturated aqueous sodium bicarbonate, and finally with water again. The dried (Na2SO4) ether-benzene solution was evaporated, giving 13.2 g of the title compound.

reactant | N-Chlorosuccinimide | 104.9 mmol, 14.0 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 8-thiabicyclo[3.2.1]octan-3-one | 99.9 mmol, 16.0 g | C12CC(CC(CC1)S2)=O | C7H10OS
reactant | isopropylmagnesium bromide | 229.7 mmol, 28.3 g | C(C)(C)[Mg]Br
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 400 mL | C1=CC=CC=C1 | C6H6
solvent | ether | 300 mL | CCOCC | C4H10O
product | 7-(1-Methylethyl)-1,4-dioxa-8-thiaspiro[4.5]decane | 13.2 g | CC(C)C1CC2(OCCO2)CCS1 | C10H18O2S
